US06432957B1
Synthesis of cis-N,N′-bis[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-2,6-dimethylpiperazine tetrahydrochloride
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (123 mg) and cis-2,6-dimethylpiperazine (23 mg) were dissolved in DMF (5 mL), and to the solution potassium carbonate (58 mg) was added. The mixture was stirred at 80° C. for 4 hours and concentrated under reduced pressure. Water was added to the residue to conduct extraction with chloroform. The resultant organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1) to obtain a free base of the title compound. This compound was dissolved in ethyl acetate, and to the solution an ethyl acetate solution of 4 M hydrogen chloride was added to provide a hydrochloride.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 123 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | cis-2,6-dimethylpiperazine | 23 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | potassium carbonate | 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | cis-N,N′-bis[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-2,6-dimethylpiperazine tetrahydrochloride | Cl.Cl.Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1[C@H](CN(C[C@H]1C)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | InChI=1S/C36H44N4O6.4ClH/c1-23-19-39(21-25-9-11-37-29(13-25)27-15-31(41-3)35(45-7)32(16-27)42-4)20-24(2)40(23)22-26-10-12-38-30(14-26)28-17-33(43-5)36(46-8)34(18-28)44-6;;;;/h9-18,23-24H,19-22H2,1-8H3;4*1H/t23-,24+;;;;
